data/specific_train_final.csv
"[CH3:15][C:8]([CH2:13][OH:14])([CH:9]([CH2:11][O:12])[OH:10])[O:7][N+:5](=[O:4])[O-:6].[N+:2](=[O:1])[O-:3]>>[CH3:15][C:8]([CH2:13][OH:14])([CH:9]([CH2:11][O:12][N+:2](=[O:1])[O-:3])[OH:10])[O:7][N+:5](=[O:4])[O-:6] 2-2,12; 12-2,12",Room Temperature,Termination,recombine
"[H:20][CH:21](C)C1=CC(=CC=C1)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].C[CH:21]C1=CC(=CC=C1)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC[CH:10]OC(=O)C.[O:20][O]>>CCC[CH:10](OC(=O)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:10][C:5](=[CH2:4])[CH:6]([CH2:7][Cl:8])[O:9].[N+:2](=[O:1])[O-:3]>>[CH3:10][C:5](=[CH2:4])[CH:6]([CH2:7][Cl:8])[O:9][N+:2](=[O:1])[O-:3] 2-2,9; 9-2,9",Room Temperature,Termination,recombine
[CH3:6][C:5]1=[CH:7][CH:8]=[CH:9][C:3](=[CH:4]1)[CH2:2][O:1].[N:11](=[O:12])[O:10]>>[CH3:6][C:5]1=[CH:7][CH:8]=[CH:9][C:3](=[CH:4]1)[CH2:2][O:1].[N+:11](=[O:12])[O-:10] 11-10,Room Temperature,Propagation,ha resonance
"[H:20][CH:21](C)C1=C(C=CC=C1)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].C[CH:21]C1=C(C=CC=C1)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]C.[Cl:10]>>[H:20][Cl:10].C[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].C(O[O:10])(Cl)(Cl)Cl>>[H:20][O:10]OC(Cl)(Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC(C)C(C)(C)O[O:10]>>[H:20][O:10]OC(C)(C)C(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2](=[CH2:6])[CH:3][CH2:4][OH:5].[O:7][O:8]>>[CH3:1][C:2](=[CH:3][CH2:4][OH:5])[CH2:6][O:7][O:8] 3-2,3;2,6-2,3;2,6-6,7;7-6,7",Room Temperature,Termination,recombine
"CCCC(CO[N+](=O)[O-])[O:20][O:21][O]>>CCCC(CO[N+](=O)[O-])[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1(CC2C1CCC(C(CCC2=C)O)(C)[O:20][O:21]N=O)C>>CC1(CC2C1CCC(C(CCC2=C)O)(C)[O:20])C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(C)(CC)O[O:20].[N:10]=O>>CCCC(C)(CC)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=[CH:10])CO[N+](=O)[O-].[O:20][O]>>CC(=[CH:10][O:20][O])CO[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(CO)[O:20][O:21][O]>>CC(C)(CO)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][CH:22]COCC.[O:10][O]>>[H:20][O:10][O].CCOC[CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:20][O:21][O].CC(C)(C1CCC(=CC1)CO)O[O:10]>>[H:20][O:10]OC(C)(C)C1CCC(=CC1)CO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC[C:20]1=[C:21](C=CC(C1O)O[O:10])C>>CC[C:20]12C(C(C=C[C:21]1C)O[O:10]2)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCC[CH:21]=[CH2:20].[N+](=O)([O-])[O:10]>>CCCC[CH:21][CH2:20][O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(C(C)(C)O[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CC(C)(C(C)(C)O[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:6][C:5]1([C:2]([O:7]1)([CH3:1])[CH:3]=[O:4])[CH:8]=[CH:9][CH:10]=[O:11].[OH:12]>>[CH3:1][C:2]1([C:5]([O:7]1)([CH3:6])[CH:8]([CH:9][CH:10]=[O:11])[OH:12])[CH:3]=[O:4] 8,9-8,12; 8,9-9; 12-8,12",Room Temperature,Propagation,addition
CC(CC(=O)C)[O].O=[N:10][O:20]>>O=[N+:10][O-:20].CC(CC(=O)C)[O] 10-20,Room Temperature,Propagation,ha resonance
"CC(C(C)[O:20][O:21]N=O)OC(=O)C>>CC(C(C)OC(=O)C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH2:20]=[CH:21]Cl.[OH:10]>>[CH2:20]([CH:21]Cl)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].CC(C(C)O[O:10])O[N+](=O)[O-]>>[H:20][O:10]OC(C)C(C)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C(C)OC(=O)C)[O:20].[N+:10](=O)[O-]>>CC(C(C)[O:20][N+:10](=O)[O-])OC(=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC[C:21]1=[CH:20]C(=CC(=C1)C)C.[OH:10]>>CC[C:21]1C=C(C=C([CH:20]1[OH:10])C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].CC(C)(CO)O[O:10]>>[H:20][O:10]OC(C)(C)CO.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1(C2CCC(C1C2)(CO)[O:20][O:21]N=O)C>>CC1(C2CCC(C1C2)(CO)[O:20])C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][C:21](CCC)([O:22])OCCO.[OH:10].[O][O]>>[H:20][OH:10].CCC[C:21](=[O:22])OCCO.[O][O] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCC1(C=CC2C(C1(OO2)C)O)[O:20].[O-][N+:10]=O>>CCC1(C=CC2C(C1(OO2)C)O)[O:20][N+:10]([O-])=O 20-10,20; 10-10,20",Room Temperature,Termination,recombine
"CCCCCCC(CC)[O:20][O:21]N=O>>CCCCCCC(CC)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
